US07795249B2
A mixture of ethyl 2-bromo-1,3-thiazole-5-carboxylate (0.095 mL, 0.64 mmol), pyridine-4-ylboronic acid (0.094 g, 0.76 mmol), tetrakis(triphenylphosphine)palladium(0) (0.007 g, 0.006 mmol), and potassium carbonate (0.263 g, 1.91 mmol) in 1,4-dioxane (10 mL) and water (0.5 mL) was subjected to MWI at 160° C. for 20 min. The reaction mixture was diluted with water and extracted with EtOAc. The organic solutions were combined, acidified and concentrated. The residue was dissolved in EtOAc and brine was added. The organic solution was separated, dried over Na2SO4, filtered and concentrated to give 2-pyridin-4-yl-1,3-thiazole-5-carboxylic acid which was used without further purification. LCMS: (FA) ES+ 207.

reactant | ethyl 2-bromo-1,3-thiazole-5-carboxylate | 0.64 mmol, 0.095 mL | BrC=1SC(=CN1)C(=O)OCC | C6H6BrNO2S
reactant | pyridine-4-ylboronic acid | 0.76 mmol, 0.094 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 1.91 mmol, 0.263 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.006 mmol, 0.007 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-pyridin-4-yl-1,3-thiazole-5-carboxylic acid | N1=CC=C(C=C1)C=1SC(=CN1)C(=O)O | C9H6N2O2S
